US04638067
7-[2-(Aminomethyl)-1-azetidinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic Acid
A suspension of 1.08 g (4.0 mmol) of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, 0.93 g (5.0 mmol) of 2-[(t-butoxycarbonylamino)methyl]azetidine, 1.01 g (10 mmol) of triethylamine and 50 ml of acetonitrile was stirred at reflux for two hours. The solvent was removed in vacuo and the residue was dissolved in 25 ml of trifluoroacetic acid. After stirring at room temperature for two hours, the solvent was removed in vacuo. The residue was suspended in water and the pH adjusted to 11 with 10% sodium hydroxide. The resulting solution was filtered through a fiber glass pad to clarify and the filtrate acidified to pH 7.2 with 1 M hydrochloric acid. The resulting precipitate was removed by filtration, washed successively with water, ethanol, ether and dried in vacuo to give 0.66 g (52%) of the title compound, mp 198°-200° C.

reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 4.0 mmol, 1.08 g | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C11H8ClFN2O3
reactant | 2-[(t-butoxycarbonylamino)methyl]azetidine | 5.0 mmol, 0.93 g | C(C)(C)(C)OC(=O)NCC1NCC1 | C9H18N2O2
reactant | triethylamine | 10 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 7-[2-(Aminomethyl)-1-azetidinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic Acid | 0.66 g, 52% | NCC1N(CC1)C1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C15H17FN4O3
